US07692005B2
Step 3: 1-[3-(tert-Butyl-dimethyl-silanyloxy)-propyl]-3-fluoro-pyrrolidine
A solution of 3-Fluoro-pyrrolidine dihydrochloride salt (448 mg, 3.584 mmol) in anhydrous acetonitrile (24 mL) was treated with bromopropoxy-tert-butyldimethyl silane (0.83 mL) and then with K2CO3 (2.5 g, 5 equiv.). The reaction mixture was heated to 50° C. and stirred overnight. The reaction mixture was subsequently diluted with water (75 mL) and extracted with a 6:1 mixture of Hexane and diethyl ether (2×100 mL). The organic layer was washed with NaHCO3(aq) (100 mL) and brine (100 mL) then dried over anhydrous K2CO3. Following filtration and concentration of the filtrate in vacuo the crude product was purified by flash silica gel chromatography (MeOH:EtOAc, 1:20). By 1H NMR the resulting clear oil (0.8 g) was the desired 1-[3-(tert-Butyl-dimethyl-silanyloxy)-propyl]-3-fluoro-pyrrolidine in a 10:1 ratio with the t-butyldimethylsilanol by-product. This residue was carried on without further purification.

reactant | 3-Fluoro-pyrrolidine dihydrochloride salt | 3.584 mmol, 448 mg | Cl.Cl.FC1CNCC1
reactant | bromopropoxy-tert-butyldimethyl silane | 0.83 mL | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
reactant | K2CO3 | 2.5 g, 5 equiv. | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 24 mL | C(C)#N | C2H3N
solvent | water | 75 mL | O | H2O
product | 1-[3-(tert-Butyl-dimethyl-silanyloxy)-propyl]-3-fluoro-pyrrolidine | C(C)(C)(C)[Si](OCCCN1CC(CC1)F)(C)C | C13H28FNOSi
